US08053438B2
To a microwave vial was charged with N-(4-(3-chloropyrazin-2-yloxy)phenyl)benzo[d]thiazol-2-amine (0.25 g, 0.71 mmol), tetrahydro-2H-pyran-3-amine hydrochloride (0.19 g, 1.4 mmol), and DIPEA (0.49 mL, 2.8 mmol) in isopropyl alcohol (2 mL). The reaction was stirred and heated in a Discover® model microwave reactor (CEM, Matthews, N.C.) at 200° C. for 30 min (200 watts, Powermax™ feature on), then at the same temperature for another 15 min. The reaction mixture was partitioned between EtOAc and brine. The aqueous layer was extracted with EtOAc (3×) and the combined organics was dried (Na2SO4) and concentrated. The crude product was chromatographed through a Redi-Sep® pre-packed silica gel column (40 g), eluting with a gradient of 0% to 50% EtOAc in hexane, to provide N-(4-(3-(tetrahydro-2H-pyran-3-ylamino)pyrazin-2-yloxy)phenyl)benzo[d]thiazol-2-amine as off-white solid. MS (ESI, pos. ion) m/z: 420.0 (M+1). IC50 (uM) ++++.

reactant | N-(4-(3-chloropyrazin-2-yloxy)phenyl)benzo[d]thiazol-2-amine | 0.71 mmol, 0.25 g | ClC=1C(=NC=CN1)OC1=CC=C(C=C1)NC=1SC2=C(N1)C=CC=C2 | C17H11ClN4OS
reactant | tetrahydro-2H-pyran-3-amine hydrochloride | 1.4 mmol, 0.19 g | Cl.O1CC(CCC1)N
reactant | DIPEA | 2.8 mmol, 0.49 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | isopropyl alcohol | 2 mL | C(C)(C)O | C3H8O
product | N-(4-(3-(tetrahydro-2H-pyran-3-ylamino)pyrazin-2-yloxy)phenyl)benzo[d]thiazol-2-amine | O1CC(CCC1)NC=1C(=NC=CN1)OC1=CC=C(C=C1)NC=1SC2=C(N1)C=CC=C2 | C22H21N5O2S
